US06017919
2-[2-(4-Benzyloxyphenyl)ethyl]-6-methoxy-5-pentyloxy-2H-isoquinolin-1-one (1.21 g, 2.6 mmol, 1.0 eq) was dissolved in ethyl acetate (12 ml), and 10% palladium-carbon catalyst (300 mg, water content 50%) was added. The mixture was stirred in a stream of hydrogen for 4 hours. The reaction mixture was cooled to room temperature and filtered through Celite. The filtrate was concentrated under reduced pressure, and the obtained residue was purified by column chromatography on silica gel (ethyl acetate/hexane=1/1-ethyl acetate) to give 2-[2-(4-hydroxyphenyl)ethyl]-6-methoxy-5-pentyloxy-2H-isoquinolin-1-one (681.8 mg, 68.7%) as colorless crystals.

reactant | 2-[2-(4-Benzyloxyphenyl)ethyl]-6-methoxy-5-pentyloxy-2H-isoquinolin-1-one | 2.6 mmol, 1.21 g, 1.0 eq | C(C1=CC=CC=C1)OC1=CC=C(C=C1)CCN1C(C2=CC=C(C(=C2C=C1)OCCCCC)OC)=O | C30H33NO4
reactant | hydrogen | [H][H] | H2
solvent | ethyl acetate | 12 ml | C(C)(=O)OCC | C4H8O2
catalyst | palladium-carbon | 300 mg | [C].[Pd]
product | 2-[2-(4-hydroxyphenyl)ethyl]-6-methoxy-5-pentyloxy-2H-isoquinolin-1-one | 681.8 mg, 68.7% | OC1=CC=C(C=C1)CCN1C(C2=CC=C(C(=C2C=C1)OCCCCC)OC)=O | C23H27NO4
